US07595345B2
B. 2-{4-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-N-methoxy-N-methyl-acetamide
Using an analogous procedure to Example 1J, {4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-acetic acid (1.46 g, 3.38 mmol) and N,O-dimethylmethylhydroxyamine hydrochloride (363 mg, 3.72 mmol) give the title compound (1.24 g, 2.61 mmol, 77%).

reactant | {4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-acetic acid | 3.38 mmol, 1.46 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(=O)O)C=C1)C)C | C28H32O4
reactant | N,O-dimethylmethylhydroxyamine hydrochloride | 3.72 mmol, 363 mg | Cl.CN(OC)C
product | 2-{4-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-N-methoxy-N-methyl-acetamide | 2.61 mmol, 1.24 g, 77% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(=O)N(C)OC)C=C1)C)C | C30H37NO4
